US05432195
2) 5-tert-Butyl-2-[1-hydroxy-2-(4-methoxycarbonylphenoxy)ethyl]benzofuran
5-tert-Butyl-2-(4-methoxycarbonylphenoxyacetyl)benzofuran (124 g) was suspended in 980 ml of methanol and, with cooling with ice and stirring, 30 g of sodium borohydride was added thereto little by little. After stirring for 2 hours, 8.8 g of sodium borohydride was added and the mixture was stirred at room temperature for 4 hours. The reaction mixture was poured into 10 liters of ice water (acidified with hydrochloric acid) and the resulting crystals were collected by filtration. The crystals were dissolved in chloroform, the solution was washed with water twice and the chloroform layer was dried over anhydrous magnesium sulfate followed by concentrating in vacuo to give 120.1 g of crystals. M.p. 110°-112° C.

reactant | 5-tert-Butyl-2-(4-methoxycarbonylphenoxyacetyl)benzofuran | 124 g | C(C)(C)(C)C=1C=CC2=C(C=C(O2)C(COC2=CC=C(C=C2)C(=O)OC)=O)C1 | C22H22O5
reactant | sodium borohydride | 30 g | [BH4-].[Na+]
reactant | sodium borohydride | 8.8 g | [BH4-].[Na+]
solvent | methanol | 980 ml | CO | CH4O
product | 5-tert-Butyl-2-[1-hydroxy-2-(4-methoxycarbonylphenoxy)ethyl]benzofuran | 120.1 g | C(C)(C)(C)C=1C=CC2=C(C=C(O2)C(COC2=CC=C(C=C2)C(=O)OC)O)C1 | C22H24O5
